US06620838B1
C. 3-(4-trifluoromethylphenyl)-4-(4-(2-pyrrolidin-1-ylethoxy)benzyl)-7-methoxychromen-2-one
A solution of 3-(4-trifluoromethylphenyl)-4-(4-hydroxybenzyl)-7-methoxychromen-2-one (6.0 g, 14 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (3.3 g, 22.5 mmol), and K2CO3 (6.6 g, 47.8 mmol) in 30 mL of DMF was warmed at 120° C. for 2 hours. Solvent was removed under reduced pressure. Water was added and the aqueous layer was extracted with ethyl acetate. The combined organic layer was dried and concentrated to provide a dark brown oil. Flash chromatography (CH2Cl2:EtOAc:MeOH:TEA) provided the desired product (4.7 grams, 64%). 1H NMR (300 MHz, DMSO-d6) δ 7.79 (d, 2H, J=8.1 Hz), 7.58 (d, 2H, J=8.1 Hz), 7.51 (d, 1H, J=9.0 Hz), 7.08 (d, 2H, J=8.9 Hz), 7.06 (d, 1H, J=2.5 Hz), 6.87 (dd, 1H, J=2.5, 9.0 Hz), 6.82 (d, 2H, J=8.9 Hz), 4.08 (t, 2H J=5.0 Hz), 3.96 (s, 2H), 3.84 (s, 3H), 3.17-3.12 (m, 2H), 2.94-2.88 (m, 4H), 1.8-1.78 (m, 4H). MS (ESI) m/z 524 (M+H)+.

reactant | 3-(4-trifluoromethylphenyl)-4-(4-hydroxybenzyl)-7-methoxychromen-2-one | 14 mmol, 6.0 g | FC(C1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)O)OC)=O)(F)F | C24H17F3O4
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 22.5 mmol, 3.3 g | Cl.ClCCN1CCCC1
reactant | K2CO3 | 47.8 mmol, 6.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-trifluoromethylphenyl)-4-(4-(2-pyrrolidin-1-ylethoxy)benzyl)-7-methoxychromen-2-one | 4.7 grams, 64% | FC(C1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)OC)=O)(F)F | C30H28F3NO4
